US08461134B2
To a solution of 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-(3-oxobutyl)phenyl)acetamide (2 g, 4 mmol) in MeOH (15 mL) and water (15 mL) was added LiOH.H2O (0.93 g, 22 mmol). The mixture was stirred at r.t. overnight. The reaction mixture was concentrated, the residue was purified by pre-HPLC (column: Luna 300×50.0 mm, 10 um; liquid phase: [A-H2O+0.05% TFA; B-MeCN] B %: 12%-42%, 24 min), concentrated, acidified with HCl and freeze-dried to give 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-oxobutyl)benzenesulfonamide (650 mg, yield 40%) as HCl salt. 1H NMR: (400 MHz, DMSO-d6). δ 10.00 (s, 1H), 7.40 (d, 1H), 7.21 (d, 1H), 7.11 (d, 1H), 7.09 (d, 1H), 6.36-6.33 (m, 2H), 4.84 (s, 2H), 2.97 (t, 2H), 2.61 (t, 2H), 2.06 (s, 3H).

reactant | 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-(3-oxobutyl)phenyl)acetamide | 4 mmol, 2 g | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)CCC(C)=O)(F)F | C19H18BF3N2O6S
reactant | LiOH.H2O | 22 mmol, 0.93 g | O[Li].O
reactant | HCl | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-oxobutyl)benzenesulfonamide | 650 mg, yield 40% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCC(C)=O | C17H19BN2O5S
